US05217952
To a solution of (E)-3-[2-((Z)-1-pentenyl)phenyl]propenoic acid ethyl ester (2 g) in 20% aqueous methanol was added potassium hydroxide (2.3 g). The mixture was stirred for 2 hours at 60° C., adjusted to pH 1 with hydrochloric acid and extracted with ethyl acetate. After the extract was dried over magnesium sulfate and filtered, the solvent was evaporated. The residue was dissolved in a mixture of n-hexane and ethyl acetate (4:1). The solution was added to dicyclohexylamine (1.63 ml) to give crystals. The crystals were dissolved in ethyl acetate and washed with 1N sulfuric acid. The solution was dried over magnesium sulfate, filtered and evaporated to give (E)-3-[2-((Z)-1-pentenyl)phenyl]propenoic acid (0.92 g).

reactant | (E)-3-[2-((Z)-1-pentenyl)phenyl]propenoic acid ethyl ester | 2 g | C(C)OC(\C=C\C1=C(C=CC=C1)\C=C/CCC)=O | C16H20O2
reactant | potassium hydroxide | 2.3 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-3-[2-((Z)-1-pentenyl)phenyl]propenoic acid | 0.92 g | C(=C/CCC)/C1=C(C=CC=C1)/C=C/C(=O)O | C14H16O2
